US04008326
A solution of 2.77 gm. (0.01 mole) of 1-(1-naphthyl)-3-(4-pyridylmethyl)urea and 50 ml. of chloroform is saturated with anhydrous hydrogen chloride. The solution is then evaporated to dryness in vacuo. The residue is crystallized from alcohol Skellysolve B (9:1 v/v) to give 1-(1-naphthyl)-3-(4-pyridylmethyl)urea hydrochloride.

reactant | 1-(1-naphthyl)-3-(4-pyridylmethyl)urea | 0.01 mole | C1(=CC=CC2=CC=CC=C12)NC(=O)NCC1=CC=NC=C1 | C17H15N3O
reactant | hydrogen chloride | Cl | ClH
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-(1-naphthyl)-3-(4-pyridylmethyl)urea hydrochloride | Cl.C1(=CC=CC2=CC=CC=C12)NC(=O)NCC1=CC=NC=C1 | InChI=1S/C17H15N3O.ClH/c21-17(19-12-13-8-10-18-11-9-13)20-16-7-3-5-14-4-1-2-6-15(14)16;/h1-11H,12H2,(H2,19,20,21);1H
